US05536725
A solution of 3.9 grams (0.022 mole) of 8-ethynyl-1,4-dioxaspiro[4.5]decane, 10.5 grams (0.031 mole) of 3,5-di(trifluoromethyl)phenyl iodide (prepared in Step A of this Example), 10.7 grams (0.077 mole) of triethylamine, 0.5 gram (catalyst) of bis(triphenylphosphine)palladium(II) chloride, and 0.5 gram (catalyst) of copper(I) iodide in 100 mL of acetonitrile is stirred at ambient temperature for about 18 hours. After this time the reaction mixture is concentrated under reduced pressure to a residue. The residue is then stirred for about 2 hours with 150 mL of aqueous 1N hydrochloric acid. After this time the mixture is extracted with three 100 mL portions of ethyl acetate. The combined extracts are washed with an aqueous solution of 10% lithium chloride. The organic layer is dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure, yielding 4-[3,5-di(trifluoromethyl)phenylethynyl]cyclohexanone.

reactant | 8-ethynyl-1,4-dioxaspiro[4.5]decane | 0.022 mole, 3.9 grams | C(#C)C1CCC2(OCCO2)CC1 | C10H14O2
reactant | 3,5-di(trifluoromethyl)phenyl iodide | 0.031 mole, 10.5 grams | FC(C=1C=C(C=C(C1)C(F)(F)F)I)(F)F | C8H3F6I
reactant | triethylamine | 0.077 mole, 10.7 grams | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.5 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.5 gram | [Cu]I
product | 4-[3,5-di(trifluoromethyl)phenylethynyl]cyclohexanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C#CC1CCC(CC1)=O)(F)F | C16H12F6O
